US06777417B2
Synthesis of 3-[1-{3-[3-(4-acetyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide
3-[3-(4-Acetyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (70 mg, 0.22 mmol) was condensed with 5-methylaminosulfonyl-oxindole (50 mg, 1.01eq.) under the same conditions used in Example 1 to give 61 mg of the desired product.

reactant | 3-[3-(4-Acetyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.22 mmol, 70 mg | C(C)(=O)N1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C18H27N3O2
reactant | 5-methylaminosulfonyl-oxindole | 50 mg, 1.01eq. | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
product | 3-[1-{3-[3-(4-acetyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | 61 mg | CNS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CCN(CC1)C(C)=O | C27H35N5O4S
